US07935688B2
(1) Synthesis of 5-{4-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-2-methyl-phenyl}-4-methyl-thiophene-2-carboxylic Acid Methyl Ester
Methyl 5-bromo-4-methyl-2-thiophenecarboxylate (178.85 mg, 0.761 mmol), tetrakistriphenylphosphine palladium (14.7 mg, 0.013 mmol) and a 2 M sodium carbonate aqueous solution (0.3 mL, 0.6 mmol) were added to a solution of 4-{1-ethyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenol (Example 15-(2); 100 mg, 0.254 mmol) in toluene (0.5 mL) at room temperature, and the mixture was stirred at 85° C. for 17 hours. Ethyl acetate was added to the reaction solution. The organic layer was filtered through celite, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (n-hexane/ethyl acetate=3/1) to give the title compound (50.3 mg, 46.9%).

reactant | Methyl 5-bromo-4-methyl-2-thiophenecarboxylate | 0.761 mmol, 178.85 mg | BrC1=C(C=C(S1)C(=O)OC)C | C7H7BrO2S
reactant | sodium carbonate | 0.6 mmol, 2 M, 0.3 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-{1-ethyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenol | 0.254 mmol, 100 mg | C(C)C(CC)(C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)C1=CC(=C(C=C1)O)C | C25H35BO3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | 5-{4-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-2-methyl-phenyl}-4-methyl-thiophene-2-carboxylic Acid Methyl Ester | 50.3 mg, 46.9% | COC(=O)C=1SC(=C(C1)C)C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)O)C)CC)C | C26H30O3S
